US04453972
2-Fluoro-6-methyl-4-(2,5-dichloro-4-methylmercapto-phenoxy)-pyridine
Amounts of 12.9 gm (0.1 mol) of 2,4-difluoro-6-methylpyridine, 20.7 gm (0.1 mol) of 2,5-dichloro-4-methylmercaptophenol, and 13.8 gm (0.1 mol) of potassium carbonate in 100 ml of dimethylformamide were stirred for 10 hours at 100° C. The resulting solution was then poured onto 500 ml of ice water, and the precipitate formed was recovered by suction filtration and washed with water. It was then taken up in methylene chloride, and this solution was dried over sodium sulphate and evaporated down. The oil obtained was purified over a silica gel column (ethylene chloride as the eluant) and 16.3 gm (57% of theory) of the desired ether were obtained.

reactant | 2,4-difluoro-6-methylpyridine | 0.1 mol, 12.9 gm | FC1=NC(=CC(=C1)F)C | C6H5F2N
reactant | 2,5-dichloro-4-methylmercaptophenol | 0.1 mol, 20.7 gm | ClC1=C(C=C(C(=C1)SC)Cl)O | C7H6Cl2OS
reactant | potassium carbonate | 0.1 mol, 13.8 gm | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Fluoro-6-methyl-4-(2,5-dichloro-4-methylmercapto-phenoxy)-pyridine | FC1=NC(=CC(=C1)OC1=C(C=C(C(=C1)Cl)SC)Cl)C | C13H10Cl2FNOS
